Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
oxycodone / shellfish derived
 
Attending: ___
 
Chief Complaint:
Speech difficulty
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI:
Mr. ___ is a ___ yo RH M with a history of HTN (Atenolol 50),
HLD (Simvastatin 20), and multiple chiropractor visits including
neck manipulation in the last 2 weeks who presents with sudden
onset but subsequent stuttering course of inability to read out
loud or get out the words he wants to say with intact auditory
and reading comprehension. These symptoms began suddenly at 0930
and then resolved by ___. 

He woke up this morning feeling at his baseline. He was reading
an article and called out to his wife to read it to her. When he
tried to read it at 0930, his words came out "garbled". He was
not slurring words but noted that he was saying a string of
syllables that didn't make sense. 

He then left to do errands until 1100. He spoke a few sentences
to his wife on the phone and to others while he was doing 
errands
without difficulty. When he came home, he meant to ask his wife
"Do you want me to make you lunch?". He instead asked "Do you
want to go to the party?" Both he and his wife were unclear as 
to
why he asked this. He subsequently was able to speak in short
sentences with this wife with some delayed response time in
trying to get out the words he wanted to say (though he clearly
knew which words he wanted to say). 

At ~16:30, he tried to read a recipe out loud to his wife and we
was unable to get any words out at all. His wife called his son
(a ___ ___ nurse) who noted that the patient had a significant
delay in getting out the words he wanted to say and also within
words "was replacing sounds with other sounds". EMS was called 
at
that time. Mr ___ noted that he could repeat everything EMS
asked him to repeat though it did take him longer than usual to
repeat words. He was able to sign forms over the next ___ hours
without difficulty.

At the time of EMS transport to OSH, SBP was 190. He also began
to develop a pounding L frontal HA without phonophobia or nausea
but with photophobia and a sense of blurred vision without
diplopia (at worst ___. As his headache began, he felt like 
his
speech symptoms resolved. His speech symptoms had completely
resolved by ___. His HA had completely resolved by 21:30. By
21:30, at the time of my evaluation, he felt like his normal
self. 

He had no other associated neurologic symptoms (As detailed in
neuro ROS below). Regarding his chiropractor visits - they were
for lower back pain and question of a possible fractured rib. He
has had frequent neck manipulations over the last 2 weeks but 
the
last such manipulation was on ___.

On neuro ROS, the pt denies diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait. otherwise, as per HPI.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
PMH:
HTN
HLD
B/L knee replacements

Allergies: Oxycodone, shellfish
 
Social History:
___
Family History:
Family Hx: There is an extensive family history of HTN, HLD, DM.
His father had 2 strokes (including one that killed him). His
sister had a post-operative stroke in her ___ during a prolonged
ICU stay. No Afib, MI, CAD.                        

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
**********
Physical Exam:
Vitals: T: 98.1 65 144/82 17 100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple
Pulmonary: Regular respirations
Cardiac: RRR
Abdomen: soft
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to spell WORLD backward
without difficulty. Language is fluent with intact repetition,
reading, writing, comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high frequency
(including stroke card and "cuticle") and low frequency objects. 

Speech was not dysarthric. Able to follow both midline and
appendicular commands. The pt had good knowledge of current
events. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. Fundoscopic
exam revealed no papilledema.
III, IV, VI: EOMI without nystagmus. No diplopia or skew
deviation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Mild finger curl and pronation on R. Finger tapping
slightly lower amplitude on R. 
Normal bulk, tone throughout. No adventitious movements, such as
tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation
throughout. No extinction to DSS. Bilaterally slightly impaired
graphesthesia ___ numbers, ___ letters bilaterally). No
astereognosis. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    -   1
R  2  2    2    -   1
(-s/p b/l knee replacement)
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based. Normal heel/toe walk.  
Able
to walk in tandem without difficulty. Romberg absent. Negative
Unterberger.
=====================================================
ADMISSION PHYSICAL EXAM:
**********
Physical Exam:
Vitals: T: 97.4 57-63 ___ 95-100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple
Pulmonary: Regular respirations
Cardiac: RRR
Abdomen: soft
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Attentive, language fluent 
with intact repetition, reading, writing, comprehension. Normal 
prosody. There were no paraphasic errors. Naming intact. Speech 
was not dysarthric. Able to follow commands. No evidence of 
apraxia or neglect.  

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. Fundoscopic
exam revealed no papilledema.
III, IV, VI: EOMI without nystagmus. No diplopia or skew
deviation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: No pronator drift bilaterally. 
Normal bulk, tone throughout. No adventitious movements, such as
tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation
throughout. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    -   1
R  2  2    2    -   1
(-s/p b/l knee replacement)
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Otherwise not assessed.

-Gait: Good initiation. Narrow-based. Normal heel/toe walk.

 
Pertinent Results:
ADMISSION LABS:
___ 09:05PM BLOOD WBC-9.5 RBC-4.53* Hgb-13.4* Hct-40.3 
MCV-89 MCH-29.6 MCHC-33.3 RDW-13.4 RDWSD-43.4 Plt ___
___ 09:05PM BLOOD Neuts-61.3 ___ Monos-7.7 Eos-2.0 
Baso-0.4 Im ___ AbsNeut-5.79 AbsLymp-2.68 AbsMono-0.73 
AbsEos-0.19 AbsBaso-0.04
___ 09:05PM BLOOD ___ PTT-30.7 ___
___ 09:05PM BLOOD Plt ___
___ 09:05PM BLOOD Glucose-103* UreaN-16 Creat-0.8 Na-136 
K-3.7 Cl-101 HCO3-25 AnGap-14
___ 09:05PM BLOOD cTropnT-<0.01
___ 09:05PM BLOOD Albumin-4.3
___ 09:49PM BLOOD %HbA1c-5.9 eAG-123
___ 09:05PM BLOOD TSH-2.6
___ 09:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

STROKE LABS:
___ 09:05PM BLOOD ___ PTT-30.7 ___
___ 06:55AM BLOOD ___ PTT-32.4 ___
___ 06:55AM BLOOD TotProt-7.5 Albumin-4.4 Globuln-3.1 
Cholest-192
___ 09:49PM BLOOD %HbA1c-5.9 eAG-123
___ 06:55AM BLOOD Triglyc-162* HDL-54 CHOL/HD-3.6 
LDLcalc-106
___ 09:05PM BLOOD TSH-2.6
___ 06:55AM BLOOD CRP-2.2

SED RATE 
  Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          6                   < OR = 20 mm/h
___                                        
 
DISCHARGE LABS: 
None on day of discharge.

OTHER PERTINENT LABS THROUGHOUT ADMISSION:
___ 06:55AM BLOOD WBC-9.8 RBC-4.92 Hgb-14.4 Hct-44.4 MCV-90 
MCH-29.3 MCHC-32.4 RDW-13.5 RDWSD-44.1 Plt ___
___ 06:55AM BLOOD Neuts-60.8 ___ Monos-8.2 Eos-2.1 
Baso-0.3 Im ___ AbsNeut-5.94 AbsLymp-2.76 AbsMono-0.80 
AbsEos-0.21 AbsBaso-0.03
___ 06:55AM BLOOD Glucose-85 UreaN-14 Creat-0.9 Na-137 
K-3.8 Cl-98 HCO3-28 AnGap-15
___ 06:55AM BLOOD ALT-32 AST-28 LD(LDH)-207 CK(CPK)-257 
AlkPhos-61 TotBili-1.0
___ 06:55AM BLOOD GGT-24
___ 06:55AM BLOOD CK-MB-8 cTropnT-<0.01
___ 06:55AM BLOOD TotProt-7.5 Albumin-4.4 Globuln-3.1 
Cholest-192
___ 01:02AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:02AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 01:02AM URINE RBC-0 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 01:02AM URINE Mucous-RARE
___ 01:02AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

PERTINENT IMAGING RESULTS:
CTA HEAD AND NECK (___):
IMPRESSION: 
1. Mild atherosclerosis involving bilateral cavernous carotid 
arteries. 

2. 25% stenosis of left carotid bifurcation by NASCET criteria 
secondary to atherosclerosis. 

3. Otherwise, unremarkable CTA of head and neck. 

4. Unremarkable unenhanced head CT.  A punctate focus of acute 
infarct in the left superior temporal gyrus seen on subsequent 
MRI is not well visualized on the CT. 

5. Cervical spondylosis, most prominent at C6-C7 with there is 
likely moderate spinal canal narrowing.  If the patient is 
clinically symptomatic and there no contraindications, MRI could 
be performed for further evaluation. 

CHEST PA AND LATERAL (___):
FINDINGS:  
There is no focal consolidation, pleural effusion or 
pneumothorax.  Streaky left retrocardiac opacity most likely 
represents atelectasis.  
Cardiomediastinal silhouette is within normal limits.  No acute 
osseous 
abnormalities. 
  
IMPRESSION:  
Probable left retrocardiac atelectasis. 

HEAD MR STROKE PROTOCOL (___):
IMPRESSION: 
1. 4 mm focus of acute infarct in the left superior temporal 
gyrus with 
associated FLAIR hyperintensity. 

2. Otherwise, essentially unremarkable MRI of the brain. 

ULTRASOUND CAROTID SERIES (___):

IMPRESSION:  <40% stenosis in the left ICA.  No evidence of 
stenosis in the right ICA. 

TTE (ECHOCARDIOGRAPHY) RESULTS (___):
The left atrium is elongated. No atrial septal defect or patent 
foramen ovale is seen by 2D, color Doppler or saline contrast 
with maneuvers. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). The right ventricular cavity is mildly 
dilated with mild global free wall hypokinesis. The aortic valve 
leaflets (?#) appear structurally normal with good leaflet 
excursion. There is no aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild to moderate 
(___) mitral regurgitation is seen. The left ventricular inflow 
pattern suggests impaired relaxation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 

IMPRESSION: No intracardiac source of embolism identified. Mild 
symmetric left ventricular hypertrophy with preserved global and 
regional systolic function. Suggestion of impaired LV 
relaxation. Mildly dilated right ventricle with mild free wall 
hypokinesis. Mild-moderate mitral regurgitation.      

 
Brief Hospital Course:
Mr. ___ is a ___ year old right-handed male with a history of 
hypertension, hyperlipidemia, and multiple chiropractor visits 
that included neck manipulation within the past few weeks who 
presents with sudden onset and subsequent stuttering course of 
inability to read out loud or get out the words he wants to say 
with intact auditory and reading comprehension. At initial 
presentation to OSH his systolic blood pressure was 190 and he 
had also developed a pounding left frontal headache with a sense 
of blurred vision without diplopia. When he was initially 
evaluated by the Neurology service, his symptoms had largely 
subsided, and his speech was self-reported to be back to normal. 
Initial neurological evaluation was primarily notable for some 
residual weakness on right upper extremity, with slight right 
pronator ydrift and decreased finger tapping on the right. 
Otherwise unremarkable, including fluent language with intact 
repetition, reading, writing, comprehension, prosody, naming, 
and comprehension. Non-contrast head CT, per report from outside 
hospital, showed no evidence of blood/grey-white junction 
blurring. CTA head and neck ordered upon arrival to ___ ___ 
showed mild atherosclerosis of the bilateral cavernous carotid 
arteries, 25% stenosis of the left carotid bifurcation, and 
otherwise was an unremarkable CTA of head and neck. Ensuing MR 
showed 4 mm focus of acute infarct in the left superior temporal 
gyrus with associated FLAIR hyperintensity. Mr. ___ was 
admitted to the inpatient Neurology Service at ___ for workup 
and management of acute ischemic stroke.

Though there was concern for vessel-vessel atheroembolic infarct 
vs dissection with newly formed thrombus given history of recent 
neck manipulation by chripractor, appearance of vessels on CTA 
ruled out this etiology. Given acute onset of symptoms, location 
of infarct, and risk factors for stroke, most likely etiology is 
cardioembolic, with ensuing workup including telemetry 
monitoring and TTE, as well as initiation of Plavix therapy and 
switch from simvastatin to atorvastatin for better cholesterol 
control. Labs were primarily notable for elevated triglyceride 
at 162, LDL of 106 and HgbA1c of 5.9. Telemetry monitoring 
showed no signs of arrhythmia, particularly atrial fibrillation, 
throughout admission. Patient remained hemodynamically stable 
with no change in normal neurological exam throughout his 
admission. TTE showed no intracardiac source of embolism. Given 
that patient remained asymptomatic and hemodynamically stable 
throughout admission, decision was to continue workup with 
outpatient LINQ cardiac monitoring, with planned follow up with 
both electrophysiology and neurology following discharge.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL =106 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - Plavix, 75mg PO daily, aspirin 81 mg PO daily () 
Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
5. NexIUM (esomeprazole magnesium) 40 mg ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of speech difficulty 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
High blood pressure
Elevated cholesterol
Obesity
Chiropractor maneuvers
 
We are changing your medications as follows:  
Adding Plavix 75 mg daily
Switching Simvastatin for Atorvastatin 20 mg daily

Please take your other medications as prescribed.  

Please followup with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body
 
Followup Instructions:
___